US04812470
(a) 5-Chloromethyl-2-phenyl oxazole
A solution of chloracetyl chloride (freshly distilled, 1.59 ml, 20 mmol) in ether (10 ml) was added dropwise to a cooled (0° C.) solution of diazomethane in ether (40 mmol, ex 10.8 g Diazald) and stirred until nitrogen had ceased (ca. 10-15 mins). The solvent was blown off using nitrogen and the residual oil containing the diazoketone used without further purification. The 1-chloro-3-diazo propanone was taken up in dichloromethane (50 ml) and added dropwise to a solution of boron trifluoride etherate (4.9 ml, 40 mmol) and benzonitrile (10.2 ml, 100 mmol) in dichloromethane (150 ml) and stirred until nitrogen evolution had ceased. The mixture was then poured onto 20% aqueous sodium hydroxide solution (300 ml), the organic layer separated, washed with brine and dried (MgSO4). Solvent removal then distillation at reduced pressure gave an oil which was further purified by column chromatography (CH2Cl2 as eluant, 20 g silica) to give the title compound (870 mgs, 4.50 mmol, 22%); Vmax (film), 3060, 2960, 1665, 1610, 1550, 1545, 1480, 1450, 1355, 1280, 1125, 1040, 1020, 990, 900, 875, 840, 780, 700 cm-1 ; δH (CDCl3) 4.60 (2H, s, CH2 --Cl), 7.10 (1H, s, CH-4), 7.40 (3H, m, Ph), 7.90 (2H, m, Ph).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | ether | 40 mmol, 10.8 g | CCOCC | C4H10O
reactant | boron trifluoride etherate | 40 mmol, 4.9 ml | B(F)(F)F.CCOCC
reactant | benzonitrile | 100 mmol, 10.2 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | sodium hydroxide | 300 ml | [OH-].[Na+]
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 5-Chloromethyl-2-phenyl oxazole | 4.50 mmol, 870 mgs, 22% | ClCC1=CN=C(O1)C1=CC=CC=C1 | C10H8ClNO
